US07943622B2
[1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (18 mg, 0.022 mmol) was added to a mixture of tert-butyl 4-(3-chloro-2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (100 mg, 0.222 mmol), benzeneboronic acid (81 mg, 0.67 mmol) and sodium carbonate (71 mg, 0.67 mmol) in toluene (4 mL), 1,4-dioxane (1 mL), and water (1 mL). The reaction mixture was heated to 110° C. overnight. Additional portions of the palladium catalyst, boronic acid and sodium carbonate were added and heating continued at 110° C. After stirring overnight, additional portions of the palladium catalyst, boronic acid and sodium carbonate were again added and heating continued at 110° C. overnight. Upon cooling to room temperature, the reaction mixture was filtered through Celite®, concentrated under reduced pressure, and purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 115 mg (86%) of the title compound as the TFA salt that was ˜80% pure by LC-MS. LC-MS: RT=9.06 min, [M+H]+=492.9. 26.3 mg (22%) of tert-butyl 4-(2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate were also isolated as the TFA salt. LC-MS: RT=7.53 min, [M+H]+=416.7.

reactant | dichloromethane | 0.022 mmol, 18 mg | ClCCl | CH2Cl2
reactant | tert-butyl 4-(3-chloro-2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.222 mmol, 100 mg | ClC=1C(=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC1)F | C22H25ClFN3O4
reactant | benzeneboronic acid | 0.67 mmol, 81 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.67 mmol, 71 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | boronic acid | B(O)O | BH3O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
solvent | water | 1 mL | O | H2O
product | tert-butyl 4-(2-fluorobenzoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 26.3 mg, 22% | FC1=C(C(=O)N2C(CN(CC2)C(=O)OC(C)(C)C)COC=2C=NC=CC2)C=CC=C1 | C22H26FN3O4
